US04081537
Analogously to Example 13, 1.5 g. of 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one in 40 ml. of tetrahydrofuran is reacted with 4.5 g. of lithium tri-(tert.butoxy)-aluminum hydride in 30 ml. of tetrahydrofuran. After 1 hour, the solution is introduced into ice water which contains sulfuric acid and worked up analogously to Example 13. After chromatography of the crude product on silica gel with 5-8% acetone-hexane, 530 mg. of 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3β-ol is obtained.

reactant | 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#C | C23H28O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium tri-(tert.butoxy)-aluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3β-ol | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=C[C@H](CC[C@@H]3[C@H]1CC2)O)C#C | C23H30O3
